US05219886
(S)-ISOSERINE BENZYL ESTER, HYDROCHLORIDE
At 0°-5°, add thionyl chloride (11.0 ml) dropwise to N-(4-methoxybenzyloxycarbonyl)-(S)-isoserine (10.0 g) in benzyl alcohol (100 ml), warm the mixture to room temperature, and stir for 20 hours. Pour the reaction mixture into diethyl ether (300 ml) and filter the solid. Wash the solid with diethyl ether and dry in vacuo to give the title compound, a tan solid, m.p. 127°-130° C., [α]D26 =-18.6° (MeOH).

reactant | thionyl chloride | 11.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-(4-methoxybenzyloxycarbonyl)-(S)-isoserine | 10.0 g | COC1=CC=C(COC(=O)NC[C@H](O)C(=O)O)C=C1 | C12H15NO6
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
reactant | benzyl alcohol | 100 ml | C(C1=CC=CC=C1)O | C7H8O
product | (S)-ISOSERINE BENZYL ESTER, HYDROCHLORIDE | Cl.C(C1=CC=CC=C1)OC([C@H](CN)O)=O | InChI=1S/C10H13NO3.ClH/c11-6-9(12)10(13)14-7-8-4-2-1-3-5-8;/h1-5,9,12H,6-7,11H2;1H/t9-;/m0./s1
